US03997548
Preparation of 4-hydroxy-2,1-benzisothiazole
A mixture of 6.3 g. 4-methoxy-2,1-benzisothiazole, 28.5 g. boron tribromide, and 180 ml. methylene chloride was heated at reflux temperature 17 hours to give 5.1 g. 4-hydroxy-2,1-benzisothiazole as a yellow solid, mp. 184.5°-186.5° after recrystallization from benzene. This structure was confirmed by nmr.

reactant | 4-methoxy-2,1-benzisothiazole | COC1=CC=CC=2C1=CSN2 | C8H7NOS
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-2,1-benzisothiazole | OC1=CC=CC=2C1=CSN2 | C7H5NOS
